US04960775
A mixture of activated manganese dioxide (2.18 g) and (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]-phthalazin-2-yl)propen-1-ol (0.77 g) in anhydrous diethyl ether (50 ml) was stirred at the ambient temperature under an atmosphere of argon for 2 hours. The suspension was then filtered and the solid was washed thoroughly with diethyl ether (4×25 ml). The filtrate was evaporated, to give a yellow oil, which was triturated with a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (5 ml; 3:1 v/v) and the solid which separated was collected, to give (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl)propenal (0.56 g) in the form of a yellow solid, m.p. 162°-164° C. [Elemental analysis: C., 81.5; H, 6.07; N, 8.2%; calculated: C, 81.1; H, 5.92; N, 8.2%; NMR (in CDCl3): 1.6 (6H, d, J=7 Hz), 3.89 (1H, septet J=7 Hz), 5.83 (1H, dd, J=16 Hz, 8 Hz), 7.13-7.68 (10H, m), 8.29 (1H, s), 9.41 (1H, d, J=8 Hz); Mass spectrum (electron impact) m/z=340].

reactant | (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]-phthalazin-2-yl)propen-1-ol | 0.77 g | C(C)(C)C1=C(C(=C2N1N=CC1=CC=CC=C21)C2=CC=CC=C2)C/C=C/O | C23H22N2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | manganese dioxide | 2.18 g | [O-2].[O-2].[Mn+4]
product | (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl)propenal | 0.56 g | C(C)(C)C1=C(C(=C2N1N=CC1=CC=CC=C21)C2=CC=CC=C2)/C=C/C=O | C23H20N2O
